US06924285B2
4-[(3-chloro-4-fluoro-phenyl)amino]-6-(cis-4-amino-cyclohexan-1-yloxy)-7-methoxy-quinazoline x Trifluoroacetic Acid
Prepared by treating 4-[(3-chloro-4-fluoro-phenyl)amino]-6-[cis-4-(tert.-butyloxycarbonylamino)-cyclohexan-1-yloxy]-7-methoxy-quinazoline with trifluoroacetic acid in methylene chloride at ambient temperature.

reactant | 4-[(3-chloro-4-fluoro-phenyl)amino]-6-[cis-4-(tert.-butyloxycarbonylamino)-cyclohexan-1-yloxy]-7-methoxy-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)O[C@@H]1CC[C@@H](CC1)NC(=O)OC(C)(C)C)OC | C26H30ClFN4O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-[(3-chloro-4-fluoro-phenyl)amino]-6-(cis-4-amino-cyclohexan-1-yloxy)-7-methoxy-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)O[C@@H]1CC[C@@H](CC1)N)OC | C21H22ClFN4O2
